US08912200B2
Step 1: Ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxylate (IV)
To a solution of ethyl 5-(2-aminopyrimidin-4-yl)-2-bromo-1H-pyrrole-3-carboxylate (prepared according to WO2007/110344, 2.0 g, 6.43 mmol) dissolved in EtOH (20 mL) and toluene (20 mL), LiCl (408 mg, 9.64 mmol), 1 M aq Na2CO3 (17 mmol), 5-chloro-2-methylphenylboronic acid (1.423 g, 8.35 mmol) and Pd(Ph3P)2Cl2 (470 mg, 0.67 mmol) were added and the reaction mixture was heated at 100° C. for 5 h. After cooling to room temperature, the precipitate was filtered and the filtrate was evaporated under reduced pressure, dissolved in DCM and washed with water. The organic layer was then dried over sodium sulfate and concentrated. The crude material was chromatographed on silica gel (DCM/EtOAc 50/50) to afford the title compound (1.99 g, 87%).

reactant | ethyl 5-(2-aminopyrimidin-4-yl)-2-bromo-1H-pyrrole-3-carboxylate | 6.43 mmol, 2.0 g | NC1=NC=CC(=N1)C1=CC(=C(N1)Br)C(=O)OCC | C11H11BrN4O2
reactant | LiCl | 9.64 mmol, 408 mg | [Li+].[Cl-]
reactant | Na2CO3 | 17 mmol, 1 M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-chloro-2-methylphenylboronic acid | 8.35 mmol, 1.423 g | ClC=1C=CC(=C(C1)B(O)O)C | C7H8BClO2
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Ph3P)2Cl2 | 0.67 mmol, 470 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxylate | 1.99 g, 87% | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)OCC | C18H17ClN4O2
